US07037936B2
1(A). 2,2-dimethyl-tetrahydropyran-4-one
Mesityl oxide (11.6 mmol) and aqueous formaldehyde (11.6 mmol) were combined and heated at 165° C. for 2 hours. The reaction mixture was cooled, partitioned between ethyl acetate and brine, dried over sodium sulfate and evaporated to an oil. The crude reaction product was subjected to flash column chromatography (silica gel) eluting with ethyl acetate-hexane (1:9) to give an oil. The oil was dissolved in chloroform (250 ml), amberlyst 15 resin (11 g) was added and the mixture stirred for about 16 hours. Filtration and evaporation yielded the crude product which was subjected to flash column chromatography (silica gel) eluting with diethyl ether-hexane (1:9) to give the desired product.

reactant | Mesityl oxide | 11.6 mmol | O=C(C)C=C(C)C | C6H10O
reactant | formaldehyde | 11.6 mmol | C=O | CH2O
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,2-dimethyl-tetrahydropyran-4-one | CC1(OCCC(C1)=O)C | C7H12O2
